US04415573
4-Ethyl-1,3-dioxolane (10 ml) prepared from butane-1,2-diol was added to bis(trimethylsilyl)-5-fluorouracil prepared from 5-fluorouracil (10 g) as in Example 1. To the mixture was added dropwise a solution of anhydrous stannic chloride (6 ml) in chloroform (15 ml) over one hour under cooling in an ice bath followed by stirring at room temperature for one hour. The reaction mixture was poured into methanol (100 ml) containing sodium bicarbonate (30 g), and after removing the resulting precipitate, the filtrate was evaporated under reduced pressure. The residue was dissolved in water (10 ml), purified by column chromatography with use of Amberlite XAD-4 (Rohm and Haas Co.), and treated with benzene to give 6.9 g of crystalline 1-(1-hydroxymethylpropyloxy)-methyl-5-fluorouracil.

reactant | 4-Ethyl-1,3-dioxolane | 10 ml | C(C)C1OCOC1 | C5H10O2
reactant | butane-1,2-diol | C(C(CC)O)O | C4H10O2
reactant | bis(trimethylsilyl)-5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | sodium bicarbonate | 30 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 100 ml | CO | CH4O
product | 1-(1-hydroxymethylpropyloxy)-methyl-5-fluorouracil | 6.9 g | OCC(CC)ON1C(=O)N(C(=O)C(=C1)F)C | C9H13FN2O4
